US08044213B2
To a mixture of 0.573 g (4 mmole) of 2-piperidin-1-yl-ethanol and 8 mL of pyridine at 0 degrees was added 0.763 g (4 mmole) of p-toluenesulphonyl chloride. The mixture was stirred at ambient temperature for 3 hours. The mixture was concentrated under reduced pressure and 10 mL of water was added. The mixture was extracted twice with 10 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give toluene-4-sulfonic acid 2-piperidin-1-yl-ethyl ester as a purple oil, which was carried to next step without further purification.

reactant | 2-piperidin-1-yl-ethanol | 4 mmole, 0.573 g | N1(CCCCC1)CCO | C7H15NO
reactant | p-toluenesulphonyl chloride | 4 mmole, 0.763 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 2-piperidin-1-yl-ethyl ester | N1(CCCCC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C14H21NO3S
